data/oMe_Silver.jsonl
{"reaction_id": "NR-229_1-C_2-C(F)(F)F_3-c1ccccc1_4-C_5-c1ccc(Br)cc1","level": "medium","name": "Prins Reaction","reactants_smiles": ["O=C(C)(C(F)(F)F)","C(c1ccccc1)=C(C)(c1ccc(Br)cc1)","O"],"products_smiles": ["C([OH])(C)(c1ccc(Br)cc1)C(c1ccccc1)(C(O)(C)(C(F)(F)F))"],"conditions": "acidic conditions","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[OH+])(C)(C(F)(F)F)","step_weight": 0,"rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the carbonyl carbon via resonance and inductive effects, making it more susceptible to nucleophilic attack by the alkene."},{"step": 2,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "[C+](C)(c1ccc(Br)cc1)C(c1ccccc1)(C(O)(C)(C(F)(F)F))","step_weight": 0,"rationale": "The electron-rich alkene attacks the activated carbonyl carbon, forming a carbocation stabilized by adjacent substituents and the oxygen atom through inductive and hyperconjugative effects."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([OH2+])(C)(c1ccc(Br)cc1)C(c1ccccc1)(C(O)(C)(C(F)(F)F))","step_weight": 0,"rationale": "Water, abundant under acidic conditions, acts as a nucleophile and attacks the carbocation center, favored by the high electrophilicity and lack of steric hindrance at that position."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([OH])(C)(c1ccc(Br)cc1)C(c1ccccc1)(C(O)(C)(C(F)(F)F))","step_weight": 0,"rationale": "Deprotonation of the oxonium intermediate restores neutrality, driven by the stability of the neutral alcohol and the presence of a suitable base in the medium."}],"description": "Under acidic conditions, the carbonyl is protonated to enhance electrophilicity, enabling the alkene to attack and form a carbocation. Water then adds to the carbocation, and final deprotonation yields the Prins reaction product with hydroxyl substitution."}
{"reaction_id": "NR-147_1-C(F)(F)F_2-C_3-CCCC(C)C_4-CCCC(C)C_5-CCCC(C)C","name": "Morita-Baylis-Hillman Reaction","level": "medium","reactants_smiles": ["C(C(F)(F)F)(C)=CC(=O)(CCCC(C)C)","O=C([H])CCCC(C)C"],"products_smiles": ["C(=O)(CCCC(C)C)C(C(CCCC(C)C)O)=C(C(F)(F)F)(C)"],"conditions": "N1CCN2CCC1CC2","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(CCCC(C)C)(=CC(C(F)(F)F)(C)[N+]12CCN(CC1)CC2)[O-]","rationale": "The tertiary amine nucleophile attacks the β-position of the activated alkene due to strong electron withdrawal by the adjacent carbonyl, forming a stabilized zwitterionic enolate."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(F)(F)F)(C(C(C)(CCCC(C)C)[N+]12CCN(CC1)CC2)C(CCCC(C)C)[O-])=O","rationale": "The enolate carbon, being nucleophilic and resonance-stabilized, attacks the electrophilic carbonyl carbon of the aldehyde, favored by the aldehyde’s high reactivity and minimal steric hindrance."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(F)(F)F)(=C(/C(C)(CCCC(C)C)[N+]12CCN(CC1)CC2)C(CCCC(C)C)O)[O-]","rationale": "Proton transfer occurs to neutralize the alkoxide and generate a hydroxyl group, driven by the stability of the resulting alcohol and facilitated by the basic amine environment."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(CCCC(C)C)C(C(CCCC(C)C)O)=C(C(F)(F)F)(C)","rationale": "Elimination of the amine regenerates the catalyst and forms the conjugated alkene, favored by restoration of the carbonyl conjugation and relief of the zwitterionic intermediate’s charge separation."}],"description": "In the Morita–Baylis–Hillman reaction, the tertiary amine catalyst activates the electron-deficient alkene via nucleophilic addition, forming a zwitterionic enolate. This enolate then attacks the aldehyde, followed by proton transfer and elimination of the amine to yield the allylic alcohol product under mild conditions."}
